US07405299B2
A. Preparation of 2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic Acid
Add sodium ethoxide (145 g, 2.03 mol), followed by toluene (7 L) and 3-(2-oxo-pyrrolidin-1-ylimino)-3-pyridin-2-yl-propionic acid (280 g, 1.02 mol) to a 22 L flask equipped with mechanical stirrer, nitrogen inlet and a reflux condenser. Heat the mixture to 100° C. for 21 h. Cool to room temperature. Add water (6 L) and adjust to pH 5 with concentrated hydrochloric acid. Separate the organic layer and extract the aqueous layer with 10% isopropyl alcohol in chloroform (2×9 L). Combine the organic layers, dry (sodium sulfate), filter and concentrate in vacuo to yield the title compound as a yellow solid (218 g, 93%). MS ES+ m/e 230 (M+1).

reactant | sodium ethoxide | 2.03 mol, 145 g | [O-]CC.[Na+]
reactant | toluene | 7 L | C1(=CC=CC=C1)C | C7H8
reactant | 3-(2-oxo-pyrrolidin-1-ylimino)-3-pyridin-2-yl-propionic acid | 1.02 mol, 280 g | O=C1N(CCC1)N=C(CC(=O)O)C1=NC=CC=C1 | C12H13N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 6 L | O | H2O
product | 2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-carboxylic Acid | 218 g, 93% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C(=O)O | C12H11N3O2
